### PR TITLE
[Merged by Bors] - chore(Tactic/Positivity): generalise positivity extension for addition

### PR DESCRIPTION
**Pull request by grunweg**
to also handle positivity (or non-negativity) in semirings with monotone, but not strictly monotone addition. In particular, ENNReal (and EReal) are supported now. This was [discussed on zulip](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.22Missing.20Tactics.22.20list/near/519643888).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: MathlibTest/positivity.lean [hunk 1]
```diff
@@ -206,6 +207,37 @@ example (a : ℤ) : 0 ≤ a⁺ := by positivity
 example (a : ℤ) (ha : 0 < a) : 0 < a⁺ := by positivity
 example (a : ℤ) : 0 ≤ a⁻ := by positivity
 
+section
+
+open scoped ENNReal
+variable {a b : ℝ≥0∞}
+
+example : 0 ≤ a := by positivity
+example : 0 ≤ a + b := by positivity
```
Comment (grunweg) [inline MathlibTest/positivity.lean:216]:
```suggestion
example (ha : a ≠ 0) : 0 < a := by positivity
example : 0 ≤ a + b := by positivity

File: MathlibTest/positivity.lean [hunk 2]
```diff
@@ -206,6 +207,40 @@ example (a : ℤ) : 0 ≤ a⁺ := by positivity
...
+example (_ha : 0 ≤ a) : 0 < a + 5 := by
+  fail_if_success positivity
+  exact test_sorry
+example (_ha : 0 ≤ a) : 0 < 2 * a + 3 := by
+  fail_if_success positivity
+  exact test_sorry
+
+end
+
+
```
Comment (YaelDillies) [inline MathlibTest/positivity.lean:243]:
```suggestion

```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: MathlibTest/positivity.lean [hunk 3]
```diff
@@ -206,6 +207,38 @@ example (a : ℤ) : 0 ≤ a⁺ := by positivity
...
+  fail_if_success positivity
+  exact test_sorry
+example (_ha : 0 ≤ a) : 0 < a + 5 := by
+  fail_if_success positivity
+  exact test_sorry
+example (_ha : 0 ≤ a) : 0 < 2 * a + 3 := by
+  fail_if_success positivity
+  exact test_sorry
+
+end
```
Comment (YaelDillies) [inline MathlibTest/positivity.lean:241]:
```suggestion
end

```

**Comment by fpvandoorn** [comment]
bors merge
